US06955851B2
3c. Bis(4-hydroxyphenyl)phenylphosphine Oxide/EPON 828 Adduct.
Bis(4-hydroxyphenyl)phenylphosphine oxide (196.0 g) and EPON 828 (782.0 g) were heated at 170° C. for 40 min. The clear dark brown resin was then diluted with 218 g of PGME and filtered hot through a pad of glass wool. Solution EEW: 454; % Solids: 88.7.

reactant | Bis(4-hydroxyphenyl)phenylphosphine oxide | 196.0 g | OC1=CC=C(C=C1)P(C1=CC=CC=C1)(C1=CC=C(C=C1)O)=O | C18H15O3P
reactant | EPON 828 | 782.0 g | CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O.C1C(O1)CCl
solvent | PGME | 218 g | CC(COC)O | C4H10O2
product | Bis(4-hydroxyphenyl)phenylphosphine Oxide EPON 828 | OC1=CC=C(C=C1)P(C1=CC=CC=C1)(C1=CC=C(C=C1)O)=O.CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O.C1C(O1)CCl | InChI=1S/C18H15O3P.C15H16O2.C3H5ClO/c19-14-6-10-17(11-7-14)22(21,16-4-2-1-3-5-16)18-12-8-15(20)9-13-18;1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;4-1-3-2-5-3/h1-13,19-20H;3-10,16-17H,1-2H3;3H,1-2H2
